US06391875B2
To a solution of 2-bromo-3′-chloropropiophenone (19.3 g, 0.08 mol) in MeOH (100 mL) was added dropwise a solution of 2-amino-2-methyl-1-propanol (27.8 g, 0.31 mol) in methanol (200 mL) at ambient temperature. The mixture was stirred for 18 h and concentrated in vacuo. The residue was partitioned between water and diethyl ether. The combined organic phase was extracted with 10% aqueous hydrogen chloride. The combined aqueous acid extracts were chilled in an ice bath and made basic with 40% aqueous sodium hydroxide. The mixture was extracted with diethyl ether, the combined diethyl ether extracts were washed with water and saturated sodium chloride solution, dried (K2CO3) and concentrated in vacuo to give 15.0 g (75%) of (+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol as an off-white solid.

reactant | 2-bromo-3′-chloropropiophenone | 0.08 mol, 19.3 g | BrC(C(=O)C1=CC(=CC=C1)Cl)C | C9H8BrClO
reactant | 2-amino-2-methyl-1-propanol | 0.31 mol, 27.8 g | NC(CO)(C)C | C4H11NO
solvent | MeOH | 100 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | (+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol | 15.0 g, 75% | ClC=1C=C(C=CC1)[C@@]1([C@H](NC(CO1)(C)C)C)O | C13H18ClNO2
